US05304565
2-Ethoxy-3-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone
A mixture of 2-ethylthio-3-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone (0.5 g) and sodium ethoxide (182 mg) in ethanol (20 ml) was stirred at room temperature for 3 days. The reaction mixture was concentrated to dryness. The residue was extracted using methylene chloride and an aqueous solution of ammonium chloride. The organic layer was washed with water, dried and evaporated to dryness. The resulting syrup was purified by column chromatography on silica gel to give a colorless oil (72 mg, 21%).

reactant | 2-ethylthio-3-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone | 0.5 g | C(C)SC1=NC2=CC=CC=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C43H34N6OS
reactant | sodium ethoxide | 182 mg | [O-]CC.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-Ethoxy-3-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone | 72 mg, 21% | C(C)OC1=NC2=CC=CC=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C43H34N6O2
